US05340835
STAGE A: 5-(acetyloxy) methyl-2-furancarboxaldehyde
10.05 cm3 of acetyl chloride is added at 5° C. to a solution containing 16.2 g of 5-(hydroxy methyl) 2-furan-carboxaldehyde and 200 cm3 of methylene chloride. Then 11.4 cm3 of pyridine and 50 cm3 of methylene chloride are added. The reaction mixture is maintained under agitation for 3 hours at 20° C. It is then treated with an aqueous solution of sodium acid phosphate and extracted with methylene chloride, followed by drying and concentrating. After chromatography on silica eluting with a hexane--ethyl acetate mixture (7-3), 19.35 g of desired product is obtained.

reactant | acetyl chloride | 10.05 cm3 | C(C)(=O)Cl | C2H3ClO
reactant | 5-(hydroxy methyl) 2-furan-carboxaldehyde | 16.2 g | OCC1=CC=C(O1)C=O | C6H6O3
reactant | sodium acid phosphate | OP(=O)(O)[O-].[Na+]
solvent | methylene chloride | 50 cm3 | C(Cl)Cl | CH2Cl2
solvent | pyridine | 11.4 cm3 | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 200 cm3 | C(Cl)Cl | CH2Cl2
product | 5-(acetyloxy) methyl-2-furancarboxaldehyde | 19.35 g | C(C)(=O)OCC1=CC=C(O1)C=O | C8H8O4
